US04349674
N-(2-Propenyl)carbamimidothioic acid(3-methyl-2-quinoxalinyl)ester, hydrochloride
2-Chloro-3-methylquinoxaline (5.359 g., 0.03 mole) was dissolved in 75 ml. of acetone, treated with Norit and filtered. The filtrate was added to a solution of 3.485 g. (0.03 mole) of allylthiourea in 50 ml. of acetone while the solution was stirred at room temperature under N2. A precipitate had formed at the end of 2 hours. Stirring was continued for 31/2 hours. The solid that was filtered off was washed with acetone, then ether and dried, to give 6.68 g. (75.6% yield) of product as a pink solid, m.p. 113°-114° C.

reactant | 2-Chloro-3-methylquinoxaline | 0.03 mole, 5.359 g | ClC1=NC2=CC=CC=C2N=C1C | C9H7ClN2
reactant | Norit | C | CH4
reactant | allylthiourea | 0.03 mole | C(C=C)NC(=S)N | C4H8N2S
solvent | acetone | CC(=O)C | C3H6O
product | N-(2-Propenyl)carbamimidothioic acid(3-methyl-2-quinoxalinyl)ester, hydrochloride | 75.6% yield | Cl.CC=1C(=NC2=CC=CC=C2N1)SC(NCC=C)=N | InChI=1S/C13H14N4S.ClH/c1-3-8-15-13(14)18-12-9(2)16-10-6-4-5-7-11(10)17-12;/h3-7H,1,8H2,2H3,(H2,14,15);1H
